*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.80e-01[uF]/10[V]
* Murata P/N :GRM155R61A184KE19
* Property : C = 1.80e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A184KE19 Port1 Port2
C01 Port1 N01 1.77e-07
R01 Port1 N01 2.78e+08
L02 N01 N02 2.08e-10
R03 N02 N03 1.93e-02
C04 N03 N04 1.49e-05
R04 N03 N04 2.67e+02
C05 N04 N05 2.07e-05
R05 N04 N05 2.80e+01
C06 N05 N06 3.15e-05
R06 N05 N06 2.67e+00
C07 N06 N07 2.98e-05
R07 N06 N07 6.41e-01
C08 N07 N08 2.38e-05
R08 N07 N08 1.35e-01
C09 N08 N09 1.99e-05
R09 N08 N09 2.24e-02
C10 N09 N10 2.24e-05
R10 N09 N10 6.30e-03
L11 N10 N11 2.87e-11
R11 N10 N11 1.41e-01
L12 N11 N12 9.98e-11
R12 N11 N12 5.98e-02
C13 N12 N13 1.94e-06
L13 N12 N13 9.32e-12
R13 N12 N13 4.40e-03
C14 N13 N14 2.91e-07
L14 N13 N14 2.79e-11
R14 N13 N14 1.25e-02
C15 N14 Port2 5.12e-12
L15 N14 Port2 5.49e-11
R15 N14 Port2 1.30e+01
.ENDS GRM155R61A184KE19
