*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-03[uF]/100[V]
* Murata P/N :GRM155R72A472MA01
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A472MA01 Port1 Port2
C01 Port1 N01 4.61e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.65e-10
R03 N02 N03 1.03e-01
C04 N03 N04 6.87e-07
R04 N03 N04 2.56e+03
C05 N04 N05 7.92e-07
R05 N04 N05 1.77e+02
C06 N05 N06 7.13e-07
R06 N05 N06 1.81e+01
C07 N06 N07 4.85e-07
R07 N06 N07 2.24e+00
C08 N07 N08 3.89e-07
R08 N07 N08 3.54e-01
C09 N08 N09 1.64e-07
R09 N08 N09 9.02e-02
C10 N09 N10 1.46e-07
R10 N09 N10 1.71e-02
L11 N10 N11 5.16e-11
R11 N10 N11 2.14e-01
C12 N11 N12 5.62e-09
L12 N11 N12 2.13e-11
R12 N11 N12 5.76e-02
C13 N12 Port2 2.70e-12
L13 N12 Port2 1.20e-10
R13 N12 Port2 2.04e+01
.ENDS GRM155R72A472MA01
