*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+01[uF]/10[V]
* Murata P/N :GRM155R61A106ME11
* Property : C = 1.00e+01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A106ME11 Port1 Port2
C01 Port1 N01 7.02e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.39e-10
R03 N02 N03 4.25e-03
C04 N03 N04 4.26e-04
R04 N03 N04 3.20e+00
C05 N04 N05 5.31e-04
R05 N04 N05 3.53e-01
C06 N05 N06 5.78e-04
R06 N05 N06 5.34e-02
C07 N06 N07 5.78e-04
R07 N06 N07 8.84e-03
C08 N07 N08 3.16e-04
R08 N07 N08 2.33e-03
L09 N08 N09 3.18e-11
R09 N08 N09 1.23e-01
L10 N09 N10 5.83e-11
R10 N09 N10 4.16e-02
L11 N10 N11 1.81e-10
R11 N10 N11 2.21e-02
C12 N11 N12 4.57e-06
L12 N11 N12 1.53e-10
R12 N11 N12 4.61e-03
C13 N12 Port2 2.74e-11
L13 N12 Port2 1.00e-11
R13 N12 Port2 2.10e+00
.ENDS GRM155R61A106ME11
