*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/4.70e+00[uF]/10[V]
* Murata P/N :GRM155R61A475MEAA
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A475MEAA Port1 Port2
C01 Port1 N01 3.78e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 1.41e-10
R03 N02 N03 9.00e-03
C04 N03 N04 2.20e-04
R04 N03 N04 5.04e+00
C05 N04 N05 3.43e-04
R05 N04 N05 3.93e-01
C06 N05 N06 4.13e-04
R06 N05 N06 4.07e-02
C07 N06 N07 3.03e-04
R07 N06 N07 5.25e-03
L08 N07 N08 4.03e-11
R08 N07 N08 1.98e-01
L09 N08 N09 4.19e-11
R09 N08 N09 2.80e-02
L10 N09 N10 1.56e-10
R10 N09 N10 1.88e-02
C11 N10 N11 1.70e-05
L11 N10 N11 3.08e-11
R11 N10 N11 1.33e-03
C12 N11 N12 3.47e-06
L12 N11 N12 5.90e-11
R12 N11 N12 2.82e-03
C13 N12 Port2 4.82e-12
L13 N12 Port2 3.11e-11
R13 N12 Port2 4.14e+00
.ENDS GRM155R61A475MEAA
