*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/2.20e-02[uF]/16[V]
* Murata P/N :GRM155R61C223KA01
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61C223KA01 Port1 Port2
C01 Port1 N01 2.20e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.89e-10
R03 N02 N03 4.09e-02
C04 N03 N04 2.51e-06
R04 N03 N04 1.59e+03
C05 N04 N05 4.09e-06
R05 N04 N05 1.35e+02
C06 N05 N06 3.51e-06
R06 N05 N06 2.40e+01
C07 N06 N07 3.22e-06
R07 N06 N07 3.64e+00
C08 N07 N08 2.13e-06
R08 N07 N08 5.59e-01
C09 N08 N09 1.62e-06
R09 N08 N09 7.29e-02
C10 N09 N10 8.85e-07
R10 N09 N10 1.40e-02
L11 N10 N11 1.36e-11
R11 N10 N11 3.07e-01
L12 N11 N12 6.37e-11
R12 N11 N12 1.50e-01
C13 N12 N13 1.85e-08
L13 N12 N13 4.11e-11
R13 N12 N13 3.96e-02
C14 N13 Port2 3.45e-12
L14 N13 Port2 8.87e-11
R14 N13 Port2 1.74e+01
.ENDS GRM155R61C223KA01
