*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.50e-01[uF]/16[V]
* Murata P/N :GRM155R71C154KA12
* Property : C = 1.50e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71C154KA12 Port1 Port2
C01 Port1 N01 9.86e-08
R01 Port1 N01 3.33e+08
L02 N01 N02 1.69e-10
R03 N02 N03 2.69e-02
C04 N03 N04 3.44e-06
R04 N03 N04 1.16e+03
C05 N04 N05 4.04e-06
R05 N04 N05 1.56e+02
C06 N05 N06 3.32e-06
R06 N05 N06 2.10e+01
C07 N06 N07 2.75e-06
R07 N06 N07 2.51e+00
C08 N07 N08 2.57e-06
R08 N07 N08 2.87e-01
C09 N08 N09 1.72e-06
R09 N08 N09 6.58e-02
C10 N09 N10 2.90e-06
R10 N09 N10 7.91e-03
L11 N10 N11 1.88e-11
R11 N10 N11 1.10e-01
L12 N11 N12 8.56e-11
R12 N11 N12 6.77e-02
C13 N12 N13 1.39e-06
L13 N12 N13 5.04e-12
R13 N12 N13 5.16e-03
C14 N13 N14 1.63e-07
L14 N13 N14 2.21e-11
R14 N13 N14 1.71e-02
C15 N14 Port2 3.54e-12
L15 N14 Port2 1.13e-10
R15 N14 Port2 1.74e+01
.ENDS GRM155R71C154KA12
