*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.80e-02[uF]/16[V]
* Murata P/N :GRM155R71C183KA01
* Property : C = 1.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71C183KA01 Port1 Port2
C01 Port1 N01 1.73e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.41e-10
R03 N02 N03 4.91e-02
C04 N03 N04 2.04e-06
R04 N03 N04 1.95e+03
C05 N04 N05 3.02e-06
R05 N04 N05 1.78e+02
C06 N05 N06 2.50e-06
R06 N05 N06 2.69e+01
C07 N06 N07 2.46e-06
R07 N06 N07 3.24e+00
C08 N07 N08 2.61e-06
R08 N07 N08 4.11e-01
C09 N08 N09 2.42e-06
R09 N08 N09 1.24e-01
C10 N09 N10 9.05e-07
R10 N09 N10 4.85e-02
L11 N10 N11 6.30e-11
R11 N10 N11 1.41e-01
C12 N11 N12 1.82e-08
L12 N11 N12 2.96e-11
R12 N11 N12 4.18e-02
C13 N12 Port2 1.69e-12
L13 N12 Port2 1.64e-10
R13 N12 Port2 2.87e+01
.ENDS GRM155R71C183KA01
