*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/5.60e-02[uF]/16[V]
* Murata P/N :GRM155R71C563KA88
* Property : C = 5.60e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71C563KA88 Port1 Port2
C01 Port1 N01 5.39e-08
R01 Port1 N01 8.93e+09
L02 N01 N02 1.54e-10
R03 N02 N03 2.71e-02
C04 N03 N04 6.93e-06
R04 N03 N04 5.33e+02
C05 N04 N05 1.11e-05
R05 N04 N05 7.53e+01
C06 N05 N06 7.15e-06
R06 N05 N06 2.49e+01
C07 N06 N07 6.79e-06
R07 N06 N07 2.86e+00
C08 N07 N08 5.82e-06
R08 N07 N08 5.09e-01
C09 N08 N09 6.03e-06
R09 N08 N09 7.32e-02
C10 N09 N10 3.42e-06
R10 N09 N10 2.76e-02
L11 N10 N11 6.63e-11
R11 N10 N11 1.25e-01
L12 N11 N12 1.44e-11
R12 N11 N12 1.19e-01
C13 N12 N13 2.70e-08
L13 N12 N13 6.17e-11
R13 N12 N13 3.61e-02
C14 N13 Port2 2.16e-12
L14 N13 Port2 1.39e-10
R14 N13 Port2 2.48e+01
.ENDS GRM155R71C563KA88
