*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/8.20e-02[uF]/16[V]
* Murata P/N :GRM155R71C823KA88
* Property : C = 8.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71C823KA88 Port1 Port2
C01 Port1 N01 7.91e-08
R01 Port1 N01 6.10e+09
L02 N01 N02 1.83e-10
R03 N02 N03 2.12e-02
C04 N03 N04 8.98e-06
R04 N03 N04 4.51e+02
C05 N04 N05 1.41e-05
R05 N04 N05 4.61e+01
C06 N05 N06 9.24e-06
R06 N05 N06 1.03e+01
C07 N06 N07 8.87e-06
R07 N06 N07 1.13e+00
C08 N07 N08 6.57e-06
R08 N07 N08 1.62e-01
C09 N08 N09 5.11e-06
R09 N08 N09 2.07e-02
L10 N09 N10 1.77e-11
R10 N09 N10 1.35e-01
L11 N10 N11 9.87e-11
R11 N10 N11 8.31e-02
C12 N11 N12 6.58e-07
L12 N11 N12 1.05e-11
R12 N11 N12 6.12e-03
C13 N12 N13 1.31e-07
L13 N12 N13 2.60e-11
R13 N12 N13 1.87e-02
C14 N13 Port2 5.21e-12
L14 N13 Port2 7.04e-11
R14 N13 Port2 1.21e+01
.ENDS GRM155R71C823KA88
